US04484000
5.5 Parts of hydroquinone, 22.8 parts of 1,7-di-methoxycarbonyl-4-methylhept-3-ene and 1.0 parts of p-toluene sulphonic acid, are heated on a steam-bath for 3 days. After dilution with ether the reaction mixture is washed with sodium bicarbonate solution, water, evaporated and distilled to give dimethyl 5-methyl-5-(2',5'-dihydroxyphenyl)-azelate, b0.1 260°-9° C. with the following percentage composition by weight.

reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 1,7-di-methoxycarbonyl-4-methylhept-3-ene | COC(=O)CCC=C(CCCC(=O)OC)C | C12H20O4
reactant | p-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | dimethyl 5-methyl-5-(2',5'-dihydroxyphenyl)-azelate | CC(CCCC(=O)OC)(CCCC(=O)OC)C1=C(C=CC(=C1)O)O | C18H26O6
